Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope and lightheadedness
 
Major Surgical or Invasive Procedure:
left cephalic dual chamber pacemaker placement, ___ 
Scientific

 
History of Present Illness:
This is a ___ year old male patient who had a syncopal episode in 
the past week.  He did not incur any injury, flew home from 
___ and had several episodes of lightheadedness thereafter.  
He was seen in urgent care following weakness and unsteadiness 
in the grocery store and found to have changes in his ECG.  He 
has a noted right bundle branch block, left anterior hemiblock 
and prolonged AV block.  He was admitted through the ED for 
further workup and insertion of pacemaker.
 
Past Medical History:
Alcoholism, HTN, Depression, Hyperlipidemia, elevated LFTs
in past, L MCA punctate infarcts in L MCA territory.
 
 
Social History:
___
Family History:
Father - stroke.  mother - pacemaker. 
 
Physical Exam:
On the day of discharge, physical exam is as follows:

SUBJECTIVE: This is a ___ year old male with a history of RBBB 
and LAFB with recent syncopal episode now s/p pacemaker 
insertion. Tolerating PO diet and voiding without difficulty. 
Neuro workup was negative, head CT unremarkable.
 
OBJECTIVE:
VS: T 98.1 HR 81 RR 18 BP 126/76 97% RA
Tele: HR 80's, occ. rare PVC
General: Age appropriate, NAD 
Neck/JVD: no JVD, no carotid bruit  
CV: RRR, no M/R/G 
LUNGS: CTAB  
ABD:  soft, non-tender, +BS
Extr: feet warm, no edema 
Anterior chest ___ insertion site gauze, Tegaderm c/d/I, no 
erythema, excess warmth, drainage or hematoma noted, FROM wrist, 
hand, elbow digits, elevates to shoulder height, understands 
restrictions  
Neuro: Grossly N/V/I moves all extremities well

CXR: Reviewed by Fellow, leads in good placement, no acute 
process
CAROTID U/S: Read pending
LABS: Na2+ 136; K+ 3.8; Cl- 97; HCO3 28; BUN 15; Cr 1.0

Assessment/Plan:  
This is a ___ year old male with recent PMH for syncope, RBBB and 
LAFB now s/p insertion of pacemaker, doing well. 
# Syncope, RBBB, LAFB s/p Pacemaker insertion
- ABX x 3 Days escripted to his pharmacy
- f/u device one week
- f/u Dr ___ ___ weeks
# HTN - clinically stable
- cont dyazide
# History of stroke - clinically stable
- Carotid U/S imaging updated - read pending
- Continue ASA, good BP control
Dispo: 
Full Code
DC Home Today

 
Pertinent Results:
___ 10:22AM   GLUCOSE-96 UREA N-12 CREAT-0.8 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-23 ANION GAP-19
___ 10:22AM   cTropnT-<0.01
___ 10:22AM   WBC-5.3 RBC-4.77 HGB-14.5 HCT-43.0 MCV-90 
MCH-30.4 MCHC-33.7 RDW-12.8 RDWSD-42.4
___ 10:22AM   NEUTS-62.7 ___ MONOS-7.4 EOS-2.5 
BASOS-0.6 IM ___ AbsNeut-3.33 AbsLymp-1.40 AbsMono-0.39 
AbsEos-0.13 AbsBaso-0.03
___ 10:22AM   PLT COUNT-268
___ 05:01PM   GLUCOSE-105* UREA N-14 CREAT-1.1 SODIUM-134 
POTASSIUM-3.5 CHLORIDE-97 TOTAL CO2-26 ANION GAP-15
___ 05:01PM   estGFR-Using this
___ 05:01PM   cTropnT-<0.01
___ 05:01PM   WBC-6.5 RBC-4.56* HGB-14.3 HCT-40.7 MCV-89 
MCH-31.4 MCHC-35.1 RDW-12.7 RDWSD-41.5
___ 05:01PM   NEUTS-61 BANDS-0 ___ MONOS-2* EOS-5 
BASOS-0 ___ MYELOS-0 AbsNeut-3.97 AbsLymp-2.08 
AbsMono-0.13* AbsEos-0.33 AbsBaso-0.00*
___ 05:01PM   HYPOCHROM-OCCASIONAL ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-OCCASIONAL 
POLYCHROM-NORMAL
___ 05:01PM   PLT SMR-NORMAL PLT COUNT-246
___ 05:01PM   ___ PTT-37.0* ___
 
Brief Hospital Course:
The patient was assessed in the ED by both Cardiology and 
Neurology.  ECG revealed sinus rhythm 64 bpm with prolonged AV 
Conduction, right bundle-branch block, left anterior hemiblock 
and subsequent ECG frequent VPBs.  His syncopal episodes and 
paroxysm of light-headedness were concerning for underlying 
conduction system disease.  Pacemaker was recommended, he was 
consulted by the Electrophysiology team who recommended 
placement of a pacemaker.  Additionally, because of his history 
of CVA, he was seen and evaluated by Neurology.  A head CT was 
performed and was negative for any acute infarction or 
hemorrhage.  Ventricles and sulci were normal in size and 
configuration.  Neurology recommended an updated carotid 
ultrasound as one had not been done for several years for 
comparison, results of which are pending at the time of 
discharge.  It was felt that the patient's symptoms were cardiac 
in nature and the patient elected to proceed with pacemaker 
insertion, understanding risks and benefits.  There were no 
intraoperative complications, the patient tolerated the 
procedure well and was placed on IV antibiotics while in house 
with a plan for three days oral antibiotics at discharge.  His 
surgical wound remained well approximated, with no signs of 
erythema, excess warmth, drainage or hematoma.  Surgical 
dressing consisted of gauze and Tegaderm which will remain 
intact for 72 hours.  A chest X-Ray was performed prior to 
discharge showing good lead placement and no acute process.  The 
device was interrogated and was operating appropriately.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clindamycin 1% Solution 1 Appl TP DAILY prn 
2. Pravastatin 40 mg PO QPM 
3. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
4. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
4. Clindamycin 1% Solution 1 Appl TP DAILY prn 
5. Cephalexin 500 mg PO Q6H Duration: 2 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
syncope, right bundle branch block, left anterior fascicular 
block s/p insertion of pacemaker

 
Discharge Condition:
Stable
 
Discharge Instructions:
It was a pleasure caring for you at ___.
You were admitted after passing out and having episodes of light 
headedness and was found to have an abnormal heart rhythm. A 
pacemaker was placed and you will need to take antibiotics for 
two days after the procedure and come back to have the pacer 
checked in the device clinic in one week. Please see d/c 
instructions for activity precautions for the next 6 weeks. 
A neurologist evaluated you in the emergency room and did not 
feel that you had a stroke. The head CT scan was unchanged and 
the carotid ultrasound results are currently pending. Your 
symptoms were cardiogenic in nature and a pacemaker was 
successfully inserted. Ensure you follow up with your PCP and 
stroke provider on a regular basis as scheduled.
 
Followup Instructions:
___